US08017611B2
Di-tert-butyl dicarbonate (6.58 ml) was added slowly to 1-(3-fluorophenyl)piperazine (4.64 g) and triethylamine (7.18 ml) in DCM (50 ml) and the resulting solution was stirred for 1 hour. The reaction mixture was then evaporated and diluted with ethyl acetate (200 ml), and washed sequentially with water (100 ml) and saturated brine (50 ml). The organic layer was dried over magnesium sulfate, filtered and evaporated to afford an oil which crystallised on standing to give tert-butyl 4-(3-fluorophenyl)piperazine-1-carboxylate (7.20 g); Mass Spectrum: M−tBu+ 225; RT 2.81 min; NMR Spectrum: (DMSOd6) 7.23 (m, 1H), 6.77 (m, 2H), 6.57 (m, 1H), 3.47 (m, 4H), 3.16 (m, 4H), 1.42 (s, 9H).

reactant | Di-tert-butyl dicarbonate | 6.58 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(3-fluorophenyl)piperazine | 4.64 g | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 7.18 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(3-fluorophenyl)piperazine-1-carboxylate | 7.20 g | FC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21FN2O2
